US07098212B2
5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-nicotinic acid methyl ester
To a solution of 2-amino-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.27 g, 0.97 mmol) in acetonitrile (5 mL) was added 2,5-dichloro-nicotinic acid methyl ester (0.20 g, 0.97 mmol) and triethylamine (0.135 mL, 0.97 mmol). The reaction was refluxed for 2 hours. The reaction was concentrated and purified by chromatography on silica gel to give the title compound (0.16 g).

reactant | 2-amino-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.97 mmol, 0.27 g | NCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C15H22FN3O
reactant | 2,5-dichloro-nicotinic acid methyl ester | 0.97 mmol, 0.20 g | COC(C1=C(N=CC(=C1)Cl)Cl)=O | C7H5Cl2NO2
reactant | triethylamine | 0.97 mmol, 0.135 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-nicotinic acid methyl ester | 0.16 g | COC(C1=C(N=CC(=C1)Cl)NCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C22H26ClFN4O3
